US09284284B2
f) (5-{2-Fluoro-5-[(furan-2-ylmethyl)-amino]-phenyl}-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester
To a solution of [5-(5-amino-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (77.5 mg, 0.240 mmol) and NaOAc (59.0 mg, 0.719 mmol) in MeOH (1 ml) was added 2-furaldehyde (0.020 ml, 23.0 mg, 0.240 mmol). The reaction mixture was degassed with Ar and stirred for 15 min at 100° C. in a microwave. After cooling to 0° C., NaBH4 (10.02 mg, 0.252 mmol) was added portionwise and stirring was continued at rt for 1 h. The reaction mixture was quenched with water and diluted with EtOAc. The phases were separated and the aq. layer was twice reextracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting title compound was purified by FC (cyclohexane:EtOAc 100:0 to 80:20).

reactant | [5-(5-amino-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 0.240 mmol, 77.5 mg | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=C(C=CC(=C1)N)F)=O | C16H22FN3O3
reactant | NaOAc | 0.719 mmol, 59.0 mg | CC(=O)[O-].[Na+]
reactant | 2-furaldehyde | 0.240 mmol, 0.020 ml, 23.0 mg | O1C(=CC=C1)C=O | C5H4O2
reactant | NaBH4 | 0.252 mmol, 10.02 mg | [BH4-].[Na+]
solvent | MeOH | 1 ml | CO | CH4O
product | (5-{2-Fluoro-5-[(furan-2-ylmethyl)-amino]-phenyl}-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=C(C=CC(=C1)NCC=1OC=CC1)F)=O | C21H26FN3O4
